US07465795B2
4-amino-8-(3-fluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 3-fluoro-4-methoxy-phenylboronic acid (170 mg, 1.000 mmol) were reacted to afford the title compound (135 mg, 78% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.57 (br, 1H), 7.88-7.66 (m, 3H), 7.52-7.41 (m, 2H), 7.10(m, 1H), 3.96 (s, 3H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 1.67 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=355 (M+H). HPLC 1.76 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-fluoro-4-methoxy-phenylboronic acid | 1.000 mmol, 170 mg | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
product | 4-amino-8-(3-fluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide | 135 mg, 78% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=C(C=C1)OC)F)C(=O)NCCC | C19H19FN4O2
